US08378104B2
Step B: N-ethyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3-benzothiazol-2-amine
A mixture of bis(pinacolato)diboron (444 mg, 1.75 mmol), 7-bromo-N-ethyl-1,3-benzothiazol-2-amine (90 mg, 0.35 mmol), potassium acetate (240 mg, 2.45 mmol), 1,1′-bis(diphenylphosphino)ferrocenepalladium(II) dichloride dichloromethane complex (57 mg, 0.070 mmol) and 1,4-dioxane (8 mL) was evacuated and charged with nitrogen (3×). The mixture was heated to 105° C. for 2 h. To the crude mixture was added EtOAc. The organic fraction was washed with water and brine, dried over sodium sulfate, and purified by ISCO chromatography (0 to 30% EtOAc:heptane) to afford 93 mg (87%) of the title compound as an oily solid. MS (ESI): 305.48 [M+H]+; HPLC tR=1.22 min (HPLC: Anayltical—2 min).

reactant | bis(pinacolato)diboron | 1.75 mmol, 444 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | 7-bromo-N-ethyl-1,3-benzothiazol-2-amine | 0.35 mmol, 90 mg | BrC1=CC=CC=2N=C(SC21)NCC | C9H9BrN2S
reactant | potassium acetate | 2.45 mmol, 240 mg | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | N-ethyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3-benzothiazol-2-amine | 93 mg, 87% | C(C)NC=1SC2=C(N1)C=CC=C2B2OC(C(O2)(C)C)(C)C | C15H21BN2O2S
